US04300942
To a solution of ethyl-N-[(benzylthio)carbonyl]-N-[bis(4-chlorophenoxy)phosphinylmethyl]-glycinate (3 g.; 0.0053 mol.) dissolved in 25 ml. of methylene chloride at 0° C. was added metachloroperbenzoic acid (1.1 g.; 0.0053 mol.). The reaction mixture was stirred for one hour at 0° C. The mixture was washed with 5% sodium hydroxide, dried and concentrated in vacuo to yield ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(4-chlorophenoxy)phosphinylmethyl]-glycinate as a solid having a melting point of 121°-125° C. and the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[bis(4-chlorophenoxy)phosphinylmethyl]-glycinate | 0.0053 mol, 3 g | C(C)OC(CN(CP(=O)(OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)C(=O)SCC1=CC=CC=C1)=O | C25H24Cl2NO6PS
reactant | metachloroperbenzoic acid | 0.0053 mol, 1.1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl-N-[(benzylsulfinyl)carbonyl]-N-[bis(4-chlorophenoxy)phosphinylmethyl]-glycinate | C(C)OC(CN(CP(=O)(OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl)C(=O)S(=O)CC1=CC=CC=C1)=O | C25H24Cl2NO7PS
